US05025025
To a solution of 1.3 g (2.7 mmol) of ethyl 8-(p-chlorophenylsulfonamido)-4-[2-(3-pyridyloxy)ethyl]octanoate in 8.1 ml acetonitrile is added 2.7 ml (5.4 mmol) 2 M LiOH solution in water. After 18 hours at room temperature, the reaction mixture is diluted with 9.5 ml water and filtered to remove a small amount of insoluble solid. The filtrate is acidified with 0.36 g (5.94 mmol) acetic acid and stirred in an ice bath. After 2 hours the solid is filtered, washed with water and dried. Recrystallization from acetonitrile gives pure compound of example 31, namely 8-(p-chlorophenyl-sulfonamido)-4-[2-(3-pyridyloxy)ethyl]octanoic acid, m.p. 86-88°; further recrystallization gives m.p. 89-91°. Compound forms potassium salt as hydrate (containing 1.5 moles water).

reactant | ethyl 8-(p-chlorophenylsulfonamido)-4-[2-(3-pyridyloxy)ethyl]octanoate | 2.7 mmol, 1.3 g | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCC(CCC(=O)OCC)CCOC=1C=NC=CC1 | C23H31ClN2O5S
reactant | LiOH | 5.4 mmol, 2 M, 2.7 ml | [Li+].[OH-]
reactant | acetic acid | 5.94 mmol, 0.36 g | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 8.1 ml | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | water | 9.5 ml | O | H2O
product | 8-(p-chlorophenyl-sulfonamido)-4-[2-(3-pyridyloxy)ethyl]octanoic acid | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCC(CCC(=O)O)CCOC=1C=NC=CC1 | C21H27ClN2O5S
